US07449583B2
Synthesis of 3-[2-(3-chlorophenyl)ethyl]-2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-pyridine
521.7 ml of anhydrous THF and 521.7 ml of 2M LDA solution (1.04 mol) are placed in a 3-litre jacketed reactor equipped with a mechanical stirrer and thermometer, and maintained under a nitrogen atmosphere, the internal temperature is brought to −5° C. and a solution consisting of 158.8 g of oxazoline (0.835 mol) and 834.7 ml of anhydrous THF is then added slowly, keeping the temperature at about 0° C. After adding a few drops of solution, a strong blue-violet colour is obtained. The total addition time is about one hour. 154.6 g (0.96 mol) of 3chlorobenzyl chloride are then added over about 1.5 hours, while still maintaining the temperature at 0° C. At the end of the reaction, 521.7 g of water are added while bringing the temperature to 20-25° C. The two phases are then separated and the organic phase is evaporated to give an oil. The crude product thus obtained is taken up in toluene and filtered through Tonsil. The filtrate is concentrated to give 268.1 g of an oil with an HPLC titre of 79%. 91.8% conversion, yield=80.2%

reactant | THF | 521.7 ml | C1CCOC1 | C4H8O
reactant | LDA | 1.04 mol, 2M, 521.7 ml | [Li+].CC(C)[N-]C(C)C
reactant | oxazoline | 0.835 mol, 158.8 g | O1C=NCC1 | C3H5NO
reactant | THF | 834.7 ml | C1CCOC1 | C4H8O
reactant | 3chlorobenzyl chloride | 0.96 mol, 154.6 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 521.7 g | O | H2O
product | 3-[2-(3-chlorophenyl)ethyl]-2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-pyridine | 268.1 g, yield=80.2% | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C=1OCC(N1)(C)C | C18H19ClN2O
